US09169254B2
8-{(E)-2-[4-((R)-2-Hydroxymethyl-5-oxo-pyrrolidin-1-yl)-2-methyl-phenyl]-ethenesulfonyl}-2-(3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (28.5 mg, 48.3 μmol) was dissolved in EtOH/DMF 4:1 (concentration 10 mg/ml). The mixture was allowed to pass through 10% Pd/C (CatCart™) at a flow rate of 2 ml/min under the conditions of 30 bar and 40° C. in a hydrogen atmosphere, and was subjected to hydrogenation reaction. The resulting reaction solution was concentrated under reduced pressure. The residue was purified by preparative TLC(CH2Cl2/MeOH=20:1) to give 8-{2-[4-((R)-2-hydroxymethyl-5-oxo-pyrrolidin-1-yl)-2-methyl-phenyl]-ethanesulfonyl}-2-(3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one as a white powder (12.9 mg, 45%).

reactant | 8-{(E)-2-[4-((R)-2-Hydroxymethyl-5-oxo-pyrrolidin-1-yl)-2-methyl-phenyl]-ethenesulfonyl}-2-(3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 48.3 μmol, 28.5 mg | OC[C@@H]1N(C(CC1)=O)C1=CC(=C(C=C1)/C=C/S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(F)(F)F)=O)CC1)C | C28H29F3N4O5S
reactant | hydrogen | [H][H] | H2
solvent | EtOH DMF | CCO.CN(C)C=O
catalyst | Pd/C | [Pd] | Pd
product | 8-{2-[4-((R)-2-hydroxymethyl-5-oxo-pyrrolidin-1-yl)-2-methyl-phenyl]-ethanesulfonyl}-2-(3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 12.9 mg, 45% | OC[C@@H]1N(C(CC1)=O)C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(F)(F)F)=O)CC1)C | C28H31F3N4O5S
